US09079839B2
Synthesis of (R)-2-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-3-methyl-butyl bromide
Dissolve (R)-2-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-3-methyl butanol (14.82 g, 50 mmol) in N,N-dimethyl formamide (234 ml), add phosphorus oxybromide (14.33 g, 50 mmol) in droplets slowly and control the temperature at 20° C. in that process, and then let them to react at 20° C. for 8 hours. Cool down to room temperature, and pour the reactant liquid into water (702 ml) slowly, extract with normal hexane for three cycles, combine the normal hexane layers, wash twice with saturated sodium bicarbonate and saturated sodium chloride respectively, dry the organic layer with anhydrous sodium sulfate, filter, and condense the filtrate so as to obtain 17 g of oily matter. Add 51 ml of methanol, control the product to crystallize at −10° C., filter, and then treat the filter cake by vacuum drying at room temperature, so as to obtain 14.3 g of white solid matter; the yield is 79.6%, mp: 51-53° C., chiral purity: ≧99.9%.

reactant | (R)-2-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-3-methyl butanol | 50 mmol, 14.82 g | COC1=C(C=C(C[C@@H](CO)C(C)C)C=C1)OCCCOC | C17H28O4
reactant | phosphorus oxybromide | 50 mmol, 14.33 g | P(=O)(Br)(Br)Br | Br3OP
reactant | water | 702 ml | O | H2O
reactant | methanol | 51 ml | CO | CH4O
solvent | N,N-dimethyl formamide | 234 ml | CN(C=O)C | C3H7NO
product | (R)-2-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-3-methyl-butyl bromide | 14.3 g, yield is 79.6% | COC1=C(C=C(C[C@@H](CBr)C(C)C)C=C1)OCCCOC | C17H27BrO3
